US07994336B2
d) Synthesis of (2S)-benzofuran-4-carboxylic acid-(azetidine-2-ylmethyl)-amide hydrochloride
To a solution of (2S)-{[(benzofuran-4-carbonyl)-amino]-methyl}-azetidine-1-carboxylic acid tert-butyl ester (170 mg) in 2-propanol (4 mL) was added 5-6M HCl in 2-propanol (2 mL). The resulting reaction mixture was stirred at RT under nitrogen for 20 h and concentrated in vacuo to yield 120 mg (85%) of the title compound as an oil.

reactant | (2S)-{[(benzofuran-4-carbonyl)-amino]-methyl}-azetidine-1-carboxylic acid tert-butyl ester | 170 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)CNC(=O)C=1C=CC=C2C1C=CO2 | C18H22N2O4
reactant | HCl | 5-6M | Cl | ClH
solvent | 2-propanol | 4 mL | CC(C)O | C3H8O
solvent | 2-propanol | 2 mL | CC(C)O | C3H8O
product | (2S)-benzofuran-4-carboxylic acid-(azetidine-2-ylmethyl)-amide hydrochloride | 120 mg, 85% | Cl.N1[C@@H](CC1)CNC(=O)C=1C=CC=C2C1C=CO2 | InChI=1S/C13H14N2O2.ClH/c16-13(15-8-9-4-6-14-9)11-2-1-3-12-10(11)5-7-17-12;/h1-3,5,7,9,14H,4,6,8H2,(H,15,16);1H/t9-;/m0./s1
